US07435822B2
3-(Thiophene-3-carbonyl)-benzamide
To 1.0 g (4.69 mmol) of 3-(thiophene-3-carbonyl)-benzonitrile in 8 mL of a concentrated NH4OH at room temperature was added 6 mL of 30% H2O2 drop-wise. The white reaction mixture was allowed to stir overnight at room temperature. Next day, to the reaction crude was added 60 mL of a saturated solution of NaHCO3 and 60 mL of ethyl acetate. After removing the aqueous layer, the organic layer was washed with brine, dried over Na2SO4, and concentrated. The concentrated crude was purified by flashy chromatography (dichloromethane:methanol, from 2 to 6% methanol over 16 column volume, then from 6 to 10% methanol over 5 column volume) to obtain 840 mg (77.8% yield) of white solids; 1H NMR 500 MHz (CDCl3) δ 8.27 (m, 2H), 8.15 (m, 2H), 7.93 (m, 1H), 7.74 (m, 1H), 7.65 (t, 1H), 7.55 (m, 2H).

reactant | 3-(thiophene-3-carbonyl)-benzonitrile | 4.69 mmol, 1.0 g | S1C=C(C=C1)C(=O)C=1C=C(C#N)C=CC1 | C12H7NOS
reactant | H2O2 | 6 mL | OO | H2O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | ethyl acetate | 60 mL | C(C)(=O)OCC | C4H8O2
solvent | NH4OH | 8 mL | [NH4+].[OH-]
solvent | methanol | CO | CH4O
product | 3-(Thiophene-3-carbonyl)-benzamide | 840 mg, 77.8% yield | S1C=C(C=C1)C(=O)C=1C=C(C(=O)N)C=CC1 | C12H9NO2S
